US06197826B1
Synthesis of α-(3-Ethoxy-2-hydroxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 13 using 3-ethoxy-2-hydroxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 36.4% yield as a yellow crystalline solid, m.p. 91.9° C. (Rf=0.25 on a silica gel plate using 1:1 EtOAc/hexanes as an eluant).

reactant | 3-ethoxy-2-hydroxybenzaldehyde | C(C)OC=1C(=C(C=O)C=CC1)O | C9H10O3
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3-Ethoxy-2-hydroxyphenyl)-N-tert-butylnitrone | C(C)OC=1C(=C(C=CC1)C=[N+]([O-])C(C)(C)C)O | C13H19NO3
